US07932247B2
{3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid
To a solution of 1,1-dimethylethyl 4-[(3-bromophenyl)methyl]-1-piperazinecarboxylate (6.55 g) in THF (20 mL) at −70° C. was added dropwise n-butyl lithium (15.4 mL, 2.5M solution in hexanes) over 10 minutes. After stirring for 30 mins at that temperature, the resulting orange solution was treated with trimethylborate (8.02 g). The reaction mixture was then allowed to warm up to room temperature and quenched with saturated ammonium chloride (15 mL). The solvent was removed under vacuum and the residue was partitioned between ethyl acetate (20 mL) and water (20 mL). The aqueous phase was separated and further extracted with ethyl acetate (20 mL). The organic phases were combined, dried (MgSO4) and evaporated under vacuum to give the title compound (5 g) which was used directly for the preparation of 1,1-dimethylethyl 4-[(3′-cyano-3-biphenylyl)methyl]-1-piperazinecarboxylate without further purification. LC/MS: m/z, 321 (M+H), 1.91 min.

reactant | 1,1-dimethylethyl 4-[(3-bromophenyl)methyl]-1-piperazinecarboxylate | 6.55 g | BrC=1C=C(C=CC1)CN1CCN(CC1)C(=O)OC(C)(C)C | C16H23BrN2O2
reactant | n-butyl lithium | 2.5M, 15.4 mL | C(CCC)[Li]
reactant | trimethylborate | 8.02 g | COB(OC)OC | C3H9BO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid | 5 g | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)B(O)O | C16H25BN2O4
